Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
fall
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ y/o male with PMH significant for Schizophrenia, HTN and DM 
Type II was brought in by ambulance for intoxication. It is 
unclear as to what led to his presentation to EMS and the 
patient is amnestic to the events leading to his 
hospitalization. The patient states that his last drink was 
yesterday and that he consumed 1L of vodka. He endorses right 
vision loss and diplopia, which are long-standing problems and 
have not changed since his presentation. He endorses confusion. 
He denies headache, dizziness, nausea, vomiting, fever, chills, 
and weakness, pain, numbness and tingling of the upper and lower 
extremities bilaterally. He endorses hearing voices.
 
Past Medical History:
schizophrenia
EtOH use disorder
prior polysubstance abuse / IV drug use
antisocial personality disorder
type II diabetes
hypertension
 
Social History:
___
Family History:
Non-contributory. 
 
Physical Exam:
ADMISSION EXAM
===============================
T: 98.5  BP: 116/67  HR: 67    RR: 18   O2Sats 95% RA
Gen: Lying on stretcher, no acute distress. 
HEENT: Pupils: 3-2mm bilaterally.  EOMs intact throughout. 
Extrem: Warm and well-perfused.
Mental status: Awake and alert; cooperative with examination. 
Orientation: Oriented to person, hospital and date. 
Language: Speech fluent with good comprehension. Amnestic to the
events leading to the ___.
Cranial Nerves:
I: Not tested.
II: Pupils equally round and reactive to light 3mm to
2mm bilaterally. 
III, IV, VI: Extraocular movements intact bilaterally without
nystagmus.
V, VII: Facial strength and sensation intact and symmetric.
VIII: Hearing intact to voice.
IX, X: Palatal elevation symmetrical.
XI: Sternocleidomastoid and trapezius normal bilaterally.
XII: Tongue midline without fasciculations.
Motor: Normal bulk and tone bilaterally. No abnormal movements,
tremors. Strength full power ___ throughout. No pronator drift.
Sensation: Intact to light touch bilaterally in all four
extremities. 
 
DISCHARGE EXAM
===============================
VITALS: Reviewed in MetaVision.
GENERAL: In no acute distress. Resting comfortably. No 
agitation.
NEURO: AAOx3. Moving all four extremities with purpose.
MENTAL STATUS: Good eye contact. Attitude is cooperative. Speech 
is slow in rate. Blunted affect. Thought content with absence 
suicidal ideation.
HEENT: NCAT. EOMI. MMM.
CARDIOVASCULAR: Regular rate & rhythm. Normal S1/S2. No murmurs, 
rubs, or gallops.
PULMONARY: Clear to auscultation bilaterally. Breathing 
comfortably on room air.
ABDOMEN: Soft, non-tender, non-distended.
EXTREMITIES: Warm, well perfused, non-edematous. 
SKIN: No significant rashes. 
 
Pertinent Results:
ADMISSION LABS
===============================
___ 05:25AM BLOOD WBC-7.1 RBC-4.53* Hgb-13.2* Hct-40.4 
MCV-89 MCH-29.1 MCHC-32.7 RDW-12.0 RDWSD-39.4 Plt ___
___ 05:25AM BLOOD Neuts-66.3 ___ Monos-7.1 Eos-1.7 
Baso-0.3 Im ___ AbsNeut-4.71 AbsLymp-1.72 AbsMono-0.50 
AbsEos-0.12 AbsBaso-0.02
___ 05:25AM BLOOD ___ PTT-21.2* ___
___ 02:10AM BLOOD Glucose-340* UreaN-4* Creat-0.9 Na-143 
K-4.2 Cl-104 HCO3-25 AnGap-14
___ 09:15AM BLOOD Calcium-9.3 Phos-3.5 Mg-1.5*
___ 02:10AM BLOOD ASA-NEG ___ Acetmnp-NEG 
Tricycl-NEG
 
PERTINENT LABS
===============================
___ 02:10AM BLOOD ASA-NEG ___ Acetmnp-NEG 
Tricycl-NEG
 
DISCHARGE LABS
===============================
___ 06:00AM BLOOD WBC-4.3 RBC-4.75 Hgb-13.8 Hct-42.6 MCV-90 
MCH-29.1 MCHC-32.4 RDW-12.4 RDWSD-40.3 Plt ___
___ 06:00AM BLOOD Glucose-170* UreaN-8 Creat-0.9 Na-138 
K-4.6 Cl-100 HCO3-25 AnGap-13
___ 06:00AM BLOOD Calcium-9.7 Phos-4.6* Mg-1.8
 
PERTINENT STUDIES
===============================
CT HEAD (___)
1.  Acute intraparenchymal hemorrhage within the left frontal 
lobe as described detail above, measuring 2.8 x 1.6 cm on the 
axial plane, with surrounding vasogenic edema. No significant 
mass-effect.
2.  Unchanged slightly prominent ventricles and sulci for 
patient's age, although this finding is nonspecific suggest mild 
cortical volume loss.
 
CT C-SPINE (___)
1.  No acute fracture or traumatic subluxation.
2.  Multilevel degenerative changes throughout cervical spine, 
more significant from C3-C4 through C6-C7 levels.
 
CT HEAD (___)
Stable acute intraparenchymal hemorrhage within the left frontal 
lobe,
measuring 3.0 x 1.3 cm on the axial plane, previously 2.8 x 1.6 
cm.  The
difference is likely secondary to positioning and 
redistribution.
Unchanged left posterior parietal calvarial fracture.
 
Brief Hospital Course:
___ with history notable for schizophrenia, EtOH use disorder, 
polysubstance use, and type II diabetes who initially presented 
for fall while intoxicated c/b traumatic left frontal lobe 
intraparenchymal hemorrhage, managed conservatively. Details of 
hospitalization as follows:
 
# ACUTE LEFT FRONTAL INTRAPARENCHYMAL HEMORRHAGE
Initially brought to the ED by ambulance after found intoxicated 
outside with injuries related to fall. Initial workup was 
notable for CT head demonstrating acute intraparenchymal 
hemorrhage within the left frontal lobe consistent with 
traumatic brain injury. He was admitted to the neurosurgery 
service for monitoring and initiated on levetiracetam seizure 
prophylaxis for 7-day course. Hemorrhage was stable on repeat CT 
head the following day with continued plan for conservative 
management. He worked with physical and occupational therapy 
over the course of admission and was able to return to baseline 
level of function. He will follow up with neurosurgery in 
approximately one month with repeat CT head at that time.
 
# SCHIZOPHRENIA
Longstanding history of complex psychiatric illness complicated 
by chronic homelessness and polysubstance use. With history of 
suicide attempts and psychiatric hospitalization. On arrival he 
reportedly expressed thoughts of self harm, however, this was in 
the setting of acute EtOH intoxication, therefore limiting 
psychiatric assessment. Once sober he consistently denied any 
desire for self harm or suicide. He did not meet criteria for 
___ or inpatient psychiatric admission.
 
# ALCOHOL DEPENDENCE
Intoxicated on arrival with self-reported use of up to 1L vodka 
per day. He was monitored on CIWA with only minimal scores 
(primarily driven by headache in setting of head injury). 
Counseled on options for EtOH dependence treatment however he 
was not interested in seeking further care at this time. Started 
on folate, thiamine, and multivitamin. 
 
# THRUSH
Noted on arrival exam. HIV was negative on ___. Treated with 
clotrimazole x14 day course.
 
# HOMELESSNESS
Through coordination with social work he was discharged with 
plan for ongoing services and referred to the ___ program.  
He plans to stay at the ___.
 
# HYPOMAGNESEMIA
In setting of chronic alcohol dependence. Improved.
 
# TYPE II DIABETES
A1c 8.6. Resumed home metformin prior to discharge.
 
TRANSITIONAL ISSUES
=================================
[ ] Will need repeat CT head at time of neurosurgery follow up 
in 4 weeks.
[ ] Will need ongoing assistance with services related to 
psychiatric disorders, EtOH dependence, and homelessness.
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
further investigation.
1. MetFORMIN (Glucophage) 500 mg PO Frequency is Unknown 
2. Sertraline 100 mg PO DAILY 
3. OLANZapine 25 mg PO QHS 
4. TraZODone 50 mg PO QHS:PRN insomnia 

 
Discharge Medications:
1.  Benztropine Mesylate 1 mg PO BID 
RX *benztropine 1 mg 1 tablet(s) by mouth twice a day Disp #*60 
Tablet Refills:*0 
2.  Clotrimazole 1 TROC PO 5X/DAY Duration: 14 Days 
RX *clotrimazole 10 mg dissolve slowly in mouth 5 times daily 
Disp #*50 Troche Refills:*0 
3.  FoLIC Acid 1 mg PO DAILY 
RX *folic acid 1 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
4.  LevETIRAcetam 500 mg PO BID 
RX *levetiracetam 500 mg 1 tablet(s) by mouth twice a day Disp 
#*3 Tablet Refills:*0 
5.  Multivitamins W/minerals 1 TAB PO DAILY 
RX *multivitamin,tx-minerals  1 tablet(s) by mouth once a day 
Disp #*30 Tablet Refills:*0 
6.  RisperiDONE 1 mg PO BID 
RX *risperidone 1 mg 1 tablet(s) by mouth twice a day Disp #*60 
Tablet Refills:*0 
7.  Thiamine 100 mg PO DAILY 
RX *thiamine HCl (vitamin B1) 100 mg 1 tablet(s) by mouth once a 
day Disp #*30 Tablet Refills:*0 
8.  MetFORMIN (Glucophage) 500 mg PO BID 
RX *metformin 500 mg 1 tablet(s) by mouth twice a day Disp #*60 
Tablet Refills:*0 
9.  TraZODone 100 mg PO QHS 
RX *trazodone 100 mg 1 tablet(s) by mouth at bedtime Disp #*30 
Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
# ACUTE LEFT FRONTAL INTRAPARENCHYMAL HEMORRHAGE
 
SECONDARY DIAGNOSES:
# SCHIZOPHRENIA
# ALCOHOL DEPENDENCE
# THRUSH
# HYPOMAGNESEMIA
# TYPE II DIABETES
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,
 
It was a pleasure taking care of you at ___.
 
Why you were in the hospital:
- fall
- brain bleed
 
What was done for you in the hospital:
- We monitored you for complications from your fall and brain 
bleeding. You did not require surgery.
- We optimized you psychiatric medications and worked with 
social work to help you with services for when you leave the 
hospital. 
 
What you should do after you leave the hospital:
- Please take your medications as detailed in the discharge 
papers. If you have questions about which medications to take, 
please contact your regular doctor to discuss.
- Please go to your follow up appointments as scheduled in the 
discharge papers. Most of them already have a specific date & 
time set. If there is no specific time specified, and you do not 
hear from their office in ___ business days, please contact the 
office to schedule an appointment.
- Please monitor for worsening symptoms. If you do not feel like 
you are getting better or have any other concerns, please call 
your doctor to discuss or return to the emergency room.
 
We wish you the best!
 
Sincerely,
Your ___ Care Team
 
  
 
NEUROSURGERY INSTRUCTIONS
=====================================
Activity
We recommend that you avoid heavy lifting, running, climbing, 
or other strenuous exercise until your follow-up appointment.
You make take leisurely walks and slowly increase your 
activity at your own pace once you are symptom free at rest. 
___ try to do too much all at once.
No driving while taking any narcotic or sedating medication. 
If you experienced a seizure while admitted, you are NOT 
allowed to drive by law. 
No contact sports until cleared by your neurosurgeon. You 
should avoid contact sports for 6 months. 
 
Medications
***Please do NOT take any blood thinning medication (Aspirin, 
Ibuprofen, Plavix, Coumadin) until cleared by the neurosurgeon. 
***You have been discharged on Keppra (Levetiracetam). This 
medication helps to prevent seizures. Please continue this 
medication as indicated on your discharge instruction. It is 
important that you take this medication consistently and on 
time. 
***You have been prescribed Dilantin (Phenytoin) for 
anti-seizure medicine, take it as prescribed and follow up with 
laboratory blood drawing in one week.  This can be drawn at your 
PCPs office, but please have the results faxed to ___.
You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.
 
 
What You ___ Experience:
You may have difficulty paying attention, concentrating, and 
remembering new information.
Emotional and/or behavioral difficulties are common. 
Feeling more tired, restlessness, irritability, and mood 
swings are also common.
Constipation is common. Be sure to drink plenty of fluids and 
eat a high-fiber diet. If you are taking narcotics (prescription 
pain medications), try an over-the-counter stool softener.
 
Headaches:
Headache is one of the most common symptom after a brain 
bleed. 
Most headaches are not dangerous but you should call your 
doctor if the headache gets worse, develop arm or leg weakness, 
increased sleepiness, and/or have nausea or vomiting with a 
headache. 
Mild pain medications may be helpful with these headaches but 
avoid taking pain medications on a daily basis unless prescribed 
by your doctor. 
There are other things that can be done to help with your 
headaches: avoid caffeine, get enough sleep, daily exercise, 
relaxation/ meditation, massage, acupuncture, heat or ice packs. 

 
 
When to Call Your Doctor at ___ for:
Severe pain, swelling, redness or drainage from the incision 
site. 
Fever greater than 101.5 degrees Fahrenheit
Nausea and/or vomiting
Extreme sleepiness and not being able to stay awake
Severe headaches not relieved by pain relievers
Seizures
Any new problems with your vision or ability to speak
Weakness or changes in sensation in your face, arms, or leg
 
Call ___ and go to the nearest Emergency Room if you experience 
any of the following:
Sudden numbness or weakness in the face, arm, or leg
Sudden confusion or trouble speaking or understanding
Sudden trouble walking, dizziness, or loss of balance or 
coordination
Sudden severe headaches with no known reason

 
Followup Instructions:
___